US08030504B2
Chroman-3-one
Example 1B (3.472 g, 19.7 mmol) was dissolved in dichloromethane (45 mL) to which was added triethylamine (3.5 mL) and diphenylphosphoryl azide (5.97 g, 21.7 mmol) in toluene (20 mL). The flask was equipped with a Dean-Stark trap and the mixture was heated to reflux. Toluene (45 mL) was added after one hour and the mixture was reflux for an 2 additional hours after which it was cooled to ambient temperature. 6N hydrochloric acid (50 mL) and toluene (20 mL) were added and the biphasic mixture refluxed for 3.5 hours followed by cooling to ambient temperature. Ethyl acetate (100 mL) and water (100 mL) were added, and the separated organic layer was washed sequentially with saturated sodium bicarbonate (2×100 mL), brine, dried over anhydrous sodium sulfate and filtered. The solution was concentrated under reduced pressure and chromatographed on silica gel eluting with 0-to-40% ethyl acetate in hexane to afford the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.68 (s, 2H), 4.46 (s, 2H), 7.04 (m, 2H), 7.23 (m, 2H). MS (DCI) m/z 148.04 (M+NH4—H2O)+.

reactant | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 21.7 mmol, 5.97 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | hydrochloric acid | 6N, 50 mL | Cl | ClH
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | Toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | Chroman-3-one | O1CC(CC2=CC=CC=C12)=O | C9H8O2
